US07759366B2
2 g of 3-bromo-4-methylbenzoic acid were suspended in 9.4 g of thionyl chloride and stirred at 60° C. for 2 h. The cooled reaction mixture was concentrated under reduced pressure, taken up in 20 ml of acetonitrile, admixed with 887 mg of lithium tert-butoxide and stirred at room temperature for 20 h. For workup, the reaction mixture was admixed with ethyl acetate and water. The organic phase was removed, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography (silica gel; n-heptane) and afforded tert-butyl 3-bromo-4-methylbenzoate. 1H NMR: 8.0, s, 1H; 7.8, d, 1H, 7.5, d, 1H, 2.4, s, 3H, 1.55, s, 9H.

reactant | 3-bromo-4-methylbenzoic acid | 2 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
solvent | thionyl chloride | 9.4 g | S(=O)(Cl)Cl | Cl2OS
product | tert-butyl 3-bromo-4-methylbenzoate | BrC=1C=C(C(=O)OC(C)(C)C)C=CC1C | C12H15BrO2
